US07226644B2
To 20.5 g of 2-butyl-7,8-difluorochroman-2-ol which was dissolved in 70 mL of DMF, 25.1 g bromo-trans-4-pentylcyclohexylmethane and 11.7 g of anhydrous potassium carbonate were added, and heated to reflux for 1 hour. After the reaction solution was poured into 10% hydrochloric acid, and stirred for a while, the solution was extracted with toluene. An organic layer was washed using 10% hydrochloric acid twice, water, a 5% sodium hydroxide aqueous solution twice, water, a saturated sodium hydrogen carbonate aqueous solution twive, and a saturated saline solution in that order, and dried using anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the obtained brown oily material was purified by carrying out column chromatography (silica gel, hexane), recrystallization (acetone/methanol), distillation under a reduced pressure (227° C./0.6 mmHg), column chromatography (silica gel, hexane/toluene), recrystallization (acetone/methanol), and recrystallization (acetone/methanol), to obtain 8.8 g of 2-butyl-7,8-difluoro-6-(trans-4-pentylcyclohexylmethoxy)chroman (Ie) as colorless crystals.

reactant | 2-butyl-7,8-difluorochroman-2-ol | 20.5 g | C(CCC)C1(OC2=C(C(=CC=C2CC1)F)F)O | C13H16F2O2
reactant | bromo-trans-4-pentylcyclohexylmethane | 25.1 g | BrC[C@@H]1CC[C@H](CC1)CCCCC | C12H23Br
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 2-butyl-7,8-difluoro-6-(trans-4-pentylcyclohexylmethoxy)chroman | 8.8 g | C(CCC)C1OC2=C(C(=C(C=C2CC1)OC[C@@H]1CC[C@H](CC1)CCCCC)F)F | C25H38F2O2
